US06017919
4-[2-(6-Methoxy-1-oxo-5-pentyloxy-3,4-dihydro-1H-isoquinolin-2-yl)ethyl]phenyl acetate (720 mg, 1.69 mmol, 1 eq) was dissolved in methanol (10 ml), and aqueous ammonia (10 ml) was added. The mixture was stirred for 2 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and water (20 ml) was added to the residue. The mixture was extracted twice with ethyl acetate (30 ml). The organic layers were combined, washed with a 1N aqueous hydrochloric acid solution (10 ml) and saturated brine (50 ml), and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1/1) to give 2-[2-(4-hydroxyphenyl)ethyl]-6-methoxy-5-pentyloxy-3,4dihydro-2H-isoquinolin-1-one (396 mg, 61.0%) as colorless crystals.

reactant | 4-[2-(6-Methoxy-1-oxo-5-pentyloxy-3,4-dihydro-1H-isoquinolin-2-yl)ethyl]phenyl acetate | 1.69 mmol, 720 mg, 1 eq | C(C)(=O)OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2CC1)OCCCCC)OC)=O | C25H31NO5
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | 10 ml | CO | CH4O
product | 2-[2-(4-hydroxyphenyl)ethyl]-6-methoxy-5-pentyloxy-3,4dihydro-2H-isoquinolin-1-one | 396 mg, 61.0% | OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2CC1)OCCCCC)OC)=O | C23H29NO4
